US05403852
5 g of 7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl)-2,2-dimethylheptanenitrile in 12 cm3 of dimethylformamide are treated with twice 2.7 g of sodium azide and twice 4.95 g of triethylamine hydrochloride according to the (time and temperature) conditions defined in Example 1. After treatment, the product of the reaction is chromatographed on a column 3.5 cm in diameter containing 120 g of silica gel (50 to 200μ). The column is eluted, collecting 50 cm3 fractions, with 0.5 liter of diisopropyl ether and then with 1.3 liters of a diisopropyl ether/ethyl acetate (70:30 by volume) mixture. The fractions emerging at between 0.85 liter and 1.3 liters are concentrated under reduced pressure (0.2 kPa). The solid is taken up with 30 cm3 of diethyl ether and drained, washed with 10 cm3 of diethyl ether and dried. 2.8 g (50%) of 5-{7-[ 4,5-bis(4-methoxyphenyl)-2-oxazolyl]-2-methyl-2heptyl}-1H-tetrazole are obtained in the form of white crystals, melting point 82° C.

reactant | 7-[4,5-bis(4-methoxyphenyl)-2-oxazolyl)-2,2-dimethylheptanenitrile | 5 g | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC(C#N)(C)C | C26H30N2O3
reactant | sodium azide | 2.7 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 4.95 g | Cl.C(C)N(CC)CC
solvent | dimethylformamide | 12 cm3 | CN(C=O)C | C3H7NO
product | 5-{7-[ 4,5-bis(4-methoxyphenyl)-2-oxazolyl]-2-methyl-2heptyl}-1H-tetrazole | 2.8 g, 50% | COC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)OC)CCCCCC(C)(C)C1=NN=NN1 | C26H31N5O3
